US06939885B2
Synthesis of Biphenyl-4-sulfonic acid [4-chloro-2-(pyridine-4-carbonyl)-phenyl]-amide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone and 126 mg of biphenyl-4-sulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.24 (m, 1H), 7.36 (m, 2H), 7.42 (m, 5H), 7.56 (m, 3H), 7.77-7.84 (m, 3H), 8.73 (d, 2H, J=4.4 Hz), 10.01 (s, 1H). MS: m/z 449.0 (M++1).

reactant | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
reactant | biphenyl-4-sulfonyl chloride | 126 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | Biphenyl-4-sulfonic acid [4-chloro-2-(pyridine-4-carbonyl)-phenyl]-amide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C(=O)C1=CC=NC=C1 | C24H17ClN2O3S
